* source EWJENF
V_V1         N00215 0 10
R_R1         N00222 N00226  1  
R_R2         N00215 N00222  2  
R_R3         N00226 N00230  4  
R_R4         0 N00222  4  
R_R5         0 N00226  6  
V_V2         N00230 0 20
