* source FULL WAVE
V_V2         N01227 N01233  
+SIN 0 230 50 0 0 0
D_D1         N01227 N01237 D1N4007 
D_D2         0 N01227 D1N4007 
D_D3         N01233 N01237 D1N4007 
D_D4         0 N01233 D1N4007 
R_R1         0 N01237  50  
