* source HALF AND FULL ADDER
X_U1A         N00232 N00239 M_UN0001 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00232 N00239 M_UN0002 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00232 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N00239 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
