* source MAX POWER TRANSFER
R_R1         N00156 N00163  2  
R_R3         N00163 N00171  3  
V_V1         N00156 N00916 12
R_R2         0 N00163  1  
R_R5         0 N00171  3.72  
R_R6         0 N00916  0.5  
