* source RLC
R_R1         N00137 N00144  1k  
C_C1         N00148 0  .056uF  
L_L1         N00144 N00148  50mH  
V_V1         N00137 0 DC 0Vdc AC 230mV 
